US07902375B2
2-(5-Cyclopropyl-tetrazol-2-yl)-ethylamine
This compound is prepared by an analogous procedure to intermediate CK1 by replacing 5-Methyl-2H-tetrazole in step 1 with 5-Cyclopropyl-2H-tetrazole.

reactant | 5-Methyl-2H-tetrazole | CC=1N=NNN1 | C2H4N4
reactant | 5-Cyclopropyl-2H-tetrazole | C1(CC1)C=1N=NNN1 | C4H6N4
product | 2-(5-Cyclopropyl-tetrazol-2-yl)-ethylamine | C1(CC1)C=1N=NN(N1)CCN | C6H11N5
